US06924284B2
3-[3-(2,6-Dimethoxyphenyl)-1,2,4-oxadiazol-5-yl]propionic acid;
3-[3-(1-Methyl-1H-pyrrol-2-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(1,5-Dimethyl-1H-pyrrol-2-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-{3-[1-(2-Dimethylaminoethyl)-1H-pyrrol-2-yl]-1,2,4-oxadiazol-5-yl}propionic acid; 3-[3-(2-Chloropyridin-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid; 3-[3-(2,6-Dimethoxy-4-methylpyridin-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid; and 3-[3-(4-tert-Butyloxycarbonylamino-2-methylsulfanylthiazol-5-yl)-1,2,4-oxadiazol-5-yl]propionic acid.

reactant | 3-[3-(1-Methyl-1H-pyrrol-2-yl)-1,2,4-oxadiazol-5-yl]propionic acid | CN1C(=CC=C1)C1=NOC(=N1)CCC(=O)O | C10H11N3O3
reactant | 3-[3-(1,5-Dimethyl-1H-pyrrol-2-yl)-1,2,4-oxadiazol-5-yl]propionic acid | CN1C(=CC=C1C)C1=NOC(=N1)CCC(=O)O | C11H13N3O3
reactant | 3-{3-[1-(2-Dimethylaminoethyl)-1H-pyrrol-2-yl]-1,2,4-oxadiazol-5-yl}propionic acid | CN(CCN1C(=CC=C1)C1=NOC(=N1)CCC(=O)O)C | C13H18N4O3
reactant | 3-[3-(2-Chloropyridin-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid | ClC1=NC=CC=C1C1=NOC(=N1)CCC(=O)O | C10H8ClN3O3
reactant | 3-[3-(2,6-Dimethoxy-4-methylpyridin-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid | COC1=NC(=CC(=C1C1=NOC(=N1)CCC(=O)O)C)OC | C13H15N3O5
reactant | 3-[3-(4-tert-Butyloxycarbonylamino-2-methylsulfanylthiazol-5-yl)-1,2,4-oxadiazol-5-yl]propionic acid | C(C)(C)(C)OC(=O)NC=1N=C(SC1C1=NOC(=N1)CCC(=O)O)SC | C14H18N4O5S2
product | 3-[3-(2,6-Dimethoxyphenyl)-1,2,4-oxadiazol-5-yl]propionic acid | COC1=C(C(=CC=C1)OC)C1=NOC(=N1)CCC(=O)O | C13H14N2O5
